US09290485B2
e) 2-(Phenylamino)oxazole-4-carboxylic acid
A mixture of ethyl 2-(phenylamino)oxazole-4-carboxylate (1.64 g, 6.94 mmol) and lithiumhydroxide (332 mg, 13.88 mmol) in THF (23 ml)/water (11.5 ml) was stirred at rt for 4 hours. The reaction mixture was acidified with 2 N HCl and extracted with EA (2 x). The combined organic phases were dried over Na2SO4, filtered and evaporated under reduced pressure to afford the title product. HPLC/MS (Method G): RtG=1.41 min, MS (Method D) [M+H]+=204.9.

reactant | ethyl 2-(phenylamino)oxazole-4-carboxylate | 6.94 mmol, 1.64 g | C1(=CC=CC=C1)NC=1OC=C(N1)C(=O)OCC | C12H12N2O3
reactant | lithiumhydroxide | 13.88 mmol, 332 mg | [OH-].[Li+]
reactant | water | 11.5 ml | O | H2O
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 23 ml | C1CCOC1 | C4H8O
product | 2-(Phenylamino)oxazole-4-carboxylic acid | C1(=CC=CC=C1)NC=1OC=C(N1)C(=O)O | C10H8N2O3
